US05439925
(d) 4-(3-tert-Butyl-4-methoxybenzoyloxymethyl) benzaldehyde
In a manner similar to Example 1(d), by reaction of 7.6 g (34 mmol) of 3-tert-butyl-4-methoxybenzoyl chloride with 4.6 g (34 mmol) of 4-hydroxymethylbenzaidehyde, 5.6 g (51%) of the expected aidehyde, melting point 75°-6° C., are obtained.

reactant | 3-tert-butyl-4-methoxybenzoyl chloride | 34 mmol, 7.6 g | C(C)(C)(C)C=1C=C(C(=O)Cl)C=CC1OC | C12H15ClO2
reactant | 4-hydroxymethylbenzaidehyde | 34 mmol, 4.6 g | OCC1=CC=C(C=O)C=C1 | C8H8O2
product | 4-(3-tert-Butyl-4-methoxybenzoyloxymethyl) benzaldehyde | C(C)(C)(C)C=1C=C(C(=O)OCC2=CC=C(C=O)C=C2)C=CC1OC | C20H22O4
